2176-09-21 08:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2176-9-20**] 07:40 PM
 EKG - At [**2176-9-20**] 08:30 PM
   .
   -UOP maintained at >30cc/hr
   -Pain controlled with Morphine PCA
 increased by surgery overnight.
   -Per surgery, HR with IV diltiazem drip similar to that on floors with
   PO diltiazem
   Allergies:
   Tetracycline
   Rash;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2176-9-21**] 05:30 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Metoprolol - [**2176-9-21**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-21**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 97 (92 - 115) bpm
   BP: 156/85(102) {126/67(80) - 166/102(113)} mmHg
   RR: 18 (10 - 25) insp/min
   SpO2: 98%  3L NC
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  2,782 mL
                                                                  1,004 mL
   PO:
             TF:
   IVF:
                                                                  1,894 mL
                                                                    340 mL
   Blood products:
                                                                    556 mL
   Total out:
                                                                    655 mL
                                                                    535 mL
   Urine:
                                                                    250 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   190 mL
   Balance:
                                                                  2,127 mL
                                                                    469 mL
   Physical Examination
   GEN: obese female in pain, awake and Ox3
   HEENT: NG in place, PERRLA, EOMI
   CVS: S1/S2, rapid irregularly irregular rate, no rubs, no overt murmurs
   but exam limited due to rapid rate
   RESP: CTA anteriorly, no wheezes or crackles
   ABD: obese, pt with abdominal binder
 opened by surgery this morning
   SKIN: dressings: midline dressing with serosanguinous fluid, remainder
   dressings c/d/i
   EXT: 2+pedal pulses, trace edema bilaterally
   NEURO: awake and oriented x3. PERRLA and EMOI. spontaneously moving all
   ext. No focal deficits
   Lines/tubes/drains: NGT, JP drains x3 all with serosanguinous fluid,
   foley, L PICC
   Labs / Radiology
   4.0 mEq/L
   32.4 %
        [image002.jpg]
   AM labs pending
                             [**2176-9-20**]  08:34 PM
   Hct
   32.4
   Other labs: Mg++:2.1 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ATRIAL FIBRILLATION (AFIB)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   .
   52-year-old female with PMH significant for Crohn's Disease requiring
   multiple prior surgeries, atrial fibrillation who presents with a-fib
   w/ RVR after jejunal resection for jejunal stricture/SBO.
   .
   #. A-fib w/ RVR: Pt with 10 month history of difficult to control
   a-fib.  She was not on anti-coagulation given her scheduled surgeries.
   She was on 180mg dilt SR and 100mg metoprolol TID po as her home
   regimen was controlled. Pt recently placed on a dilt gtt in the [**Hospital Unit Name 1**]
   transitioned to PO and returned to surgery. Given pt's surgery for SBO
   and need for NPO, pt in ICU for rate control with diltiazem drip. Pt
   tachycardia also affected by pain post-op. Pt is NPO including
   medications.
   - Change to 60mg PO diltiazem via NG tube. No other meds through tube
   - continue Metoprolol 20 mg IV Q4H
   - cont telemetry
   - hold on anti-coagulation given recent surgery
   .
   #. Abdominal Surgery: s/p jejunal resection for SBO at transition point
   of prior anastamoses. Pt being followed by surgery. Pt with colostomy
   and JP drains draining serosanguinous fluid.
   - monitor for abdominal compartment syndrome
   - appreciate surgery recs
   - Vanco/Levo/Flagyl per surgery
   -1x toradol for increased pain this AM
   - pain control with morphine PCA.
   - Zofran 8mg IV q8h:prn
   - NPO including meds except PO diltiazem, cont NG tube
   - monitor drain output
   - monitor UOP >30cc/hr
   - Maintain MAPS >60
   - IVF maintenence LR 20cc/hr given pt's diastolic dysfunction.
   - T&S good through [**2176-9-23**]
   .
   # Hyperglycemia - FSBS 150s. Pt is pre-diabetic per OMR. [**Month (only) 51**] also be
   contribution of increased glucose due to post op stress/pain. Not on
   oral glycemics at baseline. Tight glucose control will help with
   healing.
   -ISS
   .
   #. Crohn's Disease: Pt with multiple [**Doctor First Name 213**] and complications.  s/p abd
   surgery. Pt is no longer on Humira.  Holding po meds, thus unable to
   take Mesalamine. Will restart when able to tolerate po.
   ICU Care
   Nutrition: NPO including meds for at least 24 hrs. replete lytes, IVF
   as above
   TPN w/ Lipids - [**2176-9-20**] 08:00 PM 83 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2176-9-20**] 07:40 PM
   18 Gauge - [**2176-9-20**] 07:40 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments: patient, Husband [**Doctor Last Name 861**] [**Telephone/Fax (1) 9072**]
   Code status: Full code
   Disposition: Call out to surgery

2176-09-21 09:50:00 Physician Attending Progress Note
Chief Complaint: 52 F w/ h/o crohn's disease recent [**Month (only) **], now returns to
   the ICU following surgical revision of jejunal stricture.
   HPI:
   Complaining of pain at incision site.  Otherwise w/o complaints.
   24 Hour Events:
 PICC LINE - START [**2176-9-20**] 07:40 PM
 EKG - At [**2176-9-20**] 08:30 PM
   NGT placed.
   Continued in AF w/ RVR.
   Allergies:
   Tetracycline
   Rash;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2176-9-21**] 05:30 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Metoprolol - [**2176-9-21**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-21**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.5
C (97.7
   HR: 114 (92 - 115) bpm
   BP: 128/85(96) {126/67(80) - 166/102(113)} mmHg
   RR: 20 (10 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  2,782 mL
                                                                  1,187 mL
   PO:
             TF:
   IVF:
                                                                  1,894 mL
                                                                    388 mL
   Blood products:
                                                                    556 mL
   Total out:
                                                                    655 mL
                                                                    655 mL
   Urine:
                                                                    250 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   190 mL
   Balance:
                                                                  2,127 mL
                                                                    532 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   OP Clear
   NGT in place.
   Irregularly, irregular. S1,S2.  No m/r/g
   LCA b/l
   Abdomen in binder.  JP drains x [**Street Address(2) 9468**].
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.8 g/dL
   454 K/uL
   112 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   15 mg/dL
   100 mEq/L
   132 mEq/L
   33.5 %
   12.4 K/uL
        [image002.jpg]
   ECG unchanged compared to [**9-17**].
                             [**2176-9-20**]  08:34 PM
                             [**2176-9-21**]  08:19 AM
   WBC
   12.4
   Hct
   32.4
   33.5
   Plt
   454
   Cr
   0.5
   Glucose
   112
   Other labs: PT / PTT / INR:13.7/27.8/1.2, Ca++:7.7 mg/dL, Mg++:1.9
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   1.       Atrial fibrillation-  now transitioned to P.O Dilt (prior
   dose) via NGT.   Continue IV metoprolol.
   2.       Status post jejunal resection
 pain control, add toradol.
   Cont morphine PCA.   Type and screen active
   3.        Impaired glucose tolerance -  on ISS, blood sugars 150s.
   4.       Crohn
s disease -  holding anti-inflammatories.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2176-9-20**] 08:00 PM 83 mL/hour
   Glycemic Control:  as above
   Lines:
   PICC Line - [**2176-9-20**] 07:40 PM
   18 Gauge - [**2176-9-20**] 07:40 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   Comments:
   Communication:  Comments: patient
   Code status: Full code
   Disposition : call out to floor
   Total time spent:  30

2176-09-22 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - likely staying here o/n for HR in 160s and nausea with 200cc of NG
   output prior to receiving po dilt dose
   Allergies:
   Tetracycline
   Rash;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Confusion/Delir
   Last dose of Antibiotics:
   Levofloxacin - [**2176-9-21**] 05:15 PM
   Vancomycin - [**2176-9-21**] 08:00 PM
   Metronidazole - [**2176-9-22**] 06:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2176-9-22**] 12:29 AM
   Diltiazem - [**2176-9-22**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-22**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 110 (75 - 144) bpm
   BP: 105/54(67) {86/51(60) - 154/89(103)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  2,929 mL
                                                                  1,373 mL
   PO:
             TF:
   IVF:
                                                                  1,199 mL
                                                                    750 mL
   Blood products:
   Total out:
                                                                  1,635 mL
                                                                  1,015 mL
   Urine:
                                                                  1,125 mL
                                                                    325 mL
   NG:
                                                                    200 mL
                                                                    600 mL
   Stool:
   Drains:
                                                                    310 mL
                                                                     90 mL
   Balance:
                                                                  1,294 mL
                                                                    358 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   GEN: obese female in pain, awake and Ox3
   HEENT: NG in place, PERRLA, EOMI
   CVS: S1/S2, rapid irregularly irregular rate, no rubs, no overt murmurs
   but exam limited due to rapid rate
   RESP: CTA anteriorly, no wheezes or crackles
   ABD: obese, pt with abdominal binder
 opened by surgery this morning
   SKIN: dressings: midline dressing with serosanguinous fluid, remainder
   dressings c/d/i
   EXT: 2+pedal pulses, trace edema bilaterally
   NEURO: awake and oriented x3. PERRLA and EMOI. spontaneously moving all
   ext. No focal deficits
   Lines/tubes/drains: NGT, JP drains x3 all with serosanguinous fluid,
   foley, L PICC
   Labs / Radiology
   345 K/uL
   9.2 g/dL
   97 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   20 mg/dL
   101 mEq/L
   134 mEq/L
   28.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2176-9-20**]  08:34 PM
                             [**2176-9-21**]  08:19 AM
                             [**2176-9-22**]  03:40 AM
   WBC
   12.4
   9.5
   Hct
   32.4
   33.5
   28.7
   Plt
   454
   345
   Cr
   0.5
   0.7
   Glucose
   112
   97
   Other labs: PT / PTT / INR:13.7/27.8/1.2, Ca++:7.6 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   MRSA screen- pending
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ATRIAL FIBRILLATION (AFIB)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   52-year-old female with PMH significant for Crohn's Disease requiring
   multiple prior surgeries, atrial fibrillation who presents with a-fib
   w/ RVR after jejunal resection for jejunal stricture/SBO.
   .
   #. A-fib w/ RVR: Pt with 10 month history of difficult to control
   a-fib.  She was not on anti-coagulation given her scheduled surgeries.
    She was on 180mg dilt SR and 100mg metoprolol TID po as her home
   regimen was controlled. Pt recently placed on a dilt gtt in the [**Hospital Unit Name 1**]
   transitioned to PO and returned to surgery. Given pt's surgery for SBO
   and need for NPO, pt in ICU for rate control with diltiazem drip. Pt
   tachycardia also affected by pain post-op. Pt is NPO including
   medications.  Patient had high residuals and was not absorbing
   diltiazem PO, placed back on IV diltiazem.
   - would favor dilt drip, will talk with surgery
   - continue Metoprolol 20 mg IV Q4H
   - cont telemetry
   - hold on anti-coagulation given recent surgery
   - transistion to PO meds as tolerated, will consult surgery for when
   she can start taking PO
   .
   #. Abdominal Surgery: s/p jejunal resection for SBO at transition point
   of prior anastamoses. Pt being followed by surgery. Pt with colostomy
   and JP drains draining serosanguinous fluid.
   - monitor for abdominal compartment syndrome
   - appreciate surgery recs
   - Vanco/Levo/Flagyl per surgery
   -1x toradol for increased pain this AM
   - pain control with morphine PCA.
   - Zofran 8mg IV q8h:prn
   - NPO including meds except PO diltiazem, cont NG tube
   - monitor drain output
   - monitor UOP >30cc/hr
   - Maintain MAPS >60
   - IVF maintenence LR 20cc/hr given pt's diastolic dysfunction.
   - T&S good through [**2176-9-23**]
   - speak with surgery regarding pain control.  Pt would likely benefit
   from some basal pain control in addition to the PCA pump.
   .
   # Anemia
 patient had a 5 pt hematocrit drop from yesterday.  No signs
   of active bleeding.  Patient remains asymptomatic.
   - check PM hematocrit
   .
   # Hyperglycemia - FSBS 150s. Pt is pre-diabetic per OMR. [**Month (only) 51**] also be
   contribution of increased glucose due to post op stress/pain. Not on
   oral glycemics at baseline. Tight glucose control will help with
   healing.
   -ISS
   .
   #. Crohn's Disease: Pt with multiple [**Doctor First Name 213**] and complications.  s/p abd
   surgery. Pt is no longer on Humira.  Holding po meds, thus unable to
   take Mesalamine. Will restart when able to tolerate po.
   ICU Care
   Nutrition: NPO including meds for at least 24 hrs. replete lytes, IVF
   as above
   TPN w/ Lipids - [**2176-9-20**] 08:00 PM 83 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2176-9-20**] 07:40 PM
   18 Gauge - [**2176-9-20**] 07:40 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments: patient, Husband [**Doctor Last Name 861**] [**Telephone/Fax (1) 9072**]
   Code status: Full code
   Disposition: Call out to surgery once tolerating PO medications and
   rate controlled

2176-09-22 10:40:00 Physician Attending Progress Note
Chief Complaint: f/u AF w/ RVR
   HPI:
    52 F w/ h/o Crohn
s colitis, status post colonic resection, and AF w/
   RVR.
   24 Hour Events:
   High residuals resulted in transition back to IV dilt due to NPO
   status.
   Allergies:
   Tetracycline
   Rash;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Confusion/Delir
   Last dose of Antibiotics:
   Levofloxacin - [**2176-9-21**] 05:15 PM
   Metronidazole - [**2176-9-22**] 06:00 AM
   Vancomycin - [**2176-9-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2176-9-22**] 12:29 AM
   Diltiazem - [**2176-9-22**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-22**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 99 (75 - 144) bpm
   BP: 102/58(68) {86/40(50) - 154/89(103)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  2,929 mL
                                                                  1,863 mL
   PO:
             TF:
   IVF:
                                                                  1,199 mL
                                                                  1,006 mL
   Blood products:
   Total out:
                                                                  1,635 mL
                                                                  1,190 mL
   Urine:
                                                                  1,125 mL
                                                                    500 mL
   NG:
                                                                    200 mL
                                                                    600 mL
   Stool:
   Drains:
                                                                    310 mL
                                                                     90 mL
   Balance:
                                                                  1,294 mL
                                                                    673 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   HEENT: OP Clear
   NGT in place.
   Card: Irregularly, irregular. S1,S2.  No m/r/g
   Lungs: CTA b/l
   Abd: Abdomen binder in place.  JP drains x [**Street Address(2) 9468**].
   Ext: 1+ LE edema.
   No clubbing /cyanosis
   Neuro: Alert and oriented x3.
   Labs / Radiology
   9.2 g/dL
   345 K/uL
   97 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   20 mg/dL
   101 mEq/L
   134 mEq/L
   28.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2176-9-20**]  08:34 PM
                             [**2176-9-21**]  08:19 AM
                             [**2176-9-22**]  03:40 AM
   WBC
   12.4
   9.5
   Hct
   32.4
   33.5
   28.7
   Plt
   454
   345
   Cr
   0.5
   0.7
   Glucose
   112
   97
   Other labs: PT / PTT / INR:13.7/27.8/1.2, Ca++:7.6 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   1.       Atrial fibrillation- transitioning to IV gtt,  given inability
   to transition to P.O Dilt.   Continue IV metoprolol.  If surgery agrees
   with advance to p.o. medications may be able to call out to floor.
   2.       Status post jejunal resection
 pain control, add toradol.  No
   evidence of SBO.   Cont morphine PCA.   Type and screen active
   3.        Impaired glucose tolerance -  on ISS, blood sugars 150s.
   4.       Crohn
s disease -  holding anti-inflammatories
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ATRIAL FIBRILLATION (AFIB)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2176-9-21**] 11:13 PM 83 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2176-9-20**] 07:40 PM
   18 Gauge - [**2176-9-20**] 07:40 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 30

2176-09-23 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - surgery ok with pt taking PO drugs, restarted on PO dilt via NGT
   - given lopressor 10mg x 2 instead of lopressor 20mg x 2 overnight
   because of concerns of hypotension.  After lopressor given, SBP would
   go down to 80s-90s
   - lopressor held once for low BP
   - patient complaining that it's difficult to sleep on PCA pump, have to
   wake up to push the button.  ICU team wanted to add basal dose of
   morphine via PCA pump.  Surgery wanted to switch to fentanyl patch.
   - pt switched from PCA pump to fentanyl patch with IV morphine for
   breakthrough pain with adequate pain management.  Surgery wants to put
   patient back on PCA pump with max dose of 10mg/hr despite low BPs
   - called out to surgery, no beds available
   Allergies:
   Tetracycline
   Rash;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Confusion/Delir
   Last dose of Antibiotics:
   Levofloxacin - [**2176-9-21**] 05:15 PM
   Metronidazole - [**2176-9-22**] 06:00 AM
   Vancomycin - [**2176-9-22**] 08:24 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2176-9-23**] 12:30 AM
   Morphine Sulfate - [**2176-9-23**] 04:45 AM
   Lorazepam (Ativan) - [**2176-9-23**] 04:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-23**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 75 (71 - 123) bpm
   BP: 89/44(54) {87/31(45) - 149/95(108)} mmHg
   RR: 18 (13 - 20) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  3,622 mL
                                                                    818 mL
   PO:
             TF:
   IVF:
                                                                  1,630 mL
                                                                    139 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    725 mL
   Urine:
                                                                  1,440 mL
                                                                    400 mL
   NG:
                                                                    900 mL
                                                                    150 mL
   Stool:
   50 mL
   Drains:
                                                                    160 mL
                                                                    125 mL
   Balance:
                                                                  1,122 mL
                                                                     93 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   GEN: obese female in pain, awake and Ox3
   HEENT: NG in place, PERRLA, EOMI
   CVS: S1/S2, rapid irregularly irregular rate, no rubs, no overt murmurs
   but exam limited due to rapid rate
   RESP: CTA anteriorly, no wheezes or crackles
   ABD: obese, pt with abdominal binder
 opened by surgery this morning
   SKIN: dressings: midline dressing with serosanguinous fluid, remainder
   dressings c/d/i
   EXT: 2+pedal pulses, trace edema bilaterally
   NEURO: awake and oriented x3. PERRLA and EMOI. spontaneously moving all
   ext. No focal deficits
   Lines/tubes/drains: NGT, JP drains x3 all with serosanguinous fluid,
   foley, L PICC
   Labs / Radiology
   324 K/uL
   8.7 g/dL
   120 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   17 mg/dL
   104 mEq/L
   137 mEq/L
   27.6 %
   7.9 K/uL
        [image002.jpg]
                             [**2176-9-20**]  08:34 PM
                             [**2176-9-21**]  08:19 AM
                             [**2176-9-22**]  03:40 AM
                             [**2176-9-22**]  05:46 PM
                             [**2176-9-23**]  03:29 AM
   WBC
   12.4
   9.5
   8.8
   7.9
   Hct
   32.4
   33.5
   28.7
   28.8
   27.6
   Plt
   454
   345
   322
   324
   Cr
   0.5
   0.7
   0.5
   0.5
   Glucose
   112
   97
   97
   120
   Other labs: PT / PTT / INR:13.7/27.8/1.2, Ca++:7.6 mg/dL, Mg++:2.0
   mg/dL, PO4:3.5 mg/dL
   MRSA screen - pending
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ATRIAL FIBRILLATION (AFIB)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   52-year-old female with PMH significant for Crohn's Disease requiring
   multiple prior surgeries, atrial fibrillation who presents with a-fib
   w/ RVR after jejunal resection for jejunal stricture/SBO.
   .
   #. A-fib w/ RVR: Pt with 10 month history of difficult to control
   a-fib.  She was not on anti-coagulation given her scheduled surgeries.
   She was on 180mg dilt SR and 100mg metoprolol TID po as her home
   regimen was controlled. Pt recently placed on a dilt gtt in the [**Hospital Unit Name 1**]
   transitioned to PO and returned to surgery. Given pt's surgery for SBO
   and need for NPO, pt in ICU for rate control with diltiazem drip. Pt
   tachycardia also affected by pain post-op. Pt is NPO including
   medications.  Patient had high residuals and was not absorbing
   diltiazem PO, placed back on IV diltiazem.
   - would favor dilt drip, will talk with surgery
   - continue Metoprolol 20 mg IV Q4H
   - cont telemetry
   - hold on anti-coagulation given recent surgery
   - transistion to PO meds as tolerated, will consult surgery for when
   she can start taking PO
   .
   #. Abdominal Surgery: s/p jejunal resection for SBO at transition point
   of prior anastamoses. Pt being followed by surgery. Pt with colostomy
   and JP drains draining serosanguinous fluid.
   - monitor for abdominal compartment syndrome
   - appreciate surgery recs
   - Vanco/Levo/Flagyl per surgery
   -1x toradol for increased pain this AM
   - pain control with morphine PCA.
   - Zofran 8mg IV q8h:prn
   - NPO including meds except PO diltiazem, cont NG tube
   - monitor drain output
   - monitor UOP >30cc/hr
   - Maintain MAPS >60
   - IVF maintenence LR 20cc/hr given pt's diastolic dysfunction.
   - T&S good through [**2176-9-23**]
   - speak with surgery regarding pain control.  Pt would likely benefit
   from some basal pain control in addition to the PCA pump.
   .
   # Anemia
 patient had a 5 pt hematocrit drop from yesterday.  No signs
   of active bleeding.  Patient remains asymptomatic.
   - check PM hematocrit
   .
   # Hyperglycemia - FSBS 150s. Pt is pre-diabetic per OMR. [**Month (only) 51**] also be
   contribution of increased glucose due to post op stress/pain. Not on
   oral glycemics at baseline. Tight glucose control will help with
   healing.
   -ISS
   .
   #. Crohn's Disease: Pt with multiple [**Doctor First Name 213**] and complications.  s/p abd
   surgery. Pt is no longer on Humira.  Holding po meds, thus unable to
   take Mesalamine. Will restart when able to tolerate po.
   ICU Care
   Nutrition: NPO except meds. replete lytes, IVF as above
   TPN w/ Lipids - [**2176-9-20**] 08:00 PM 83 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2176-9-20**] 07:40 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments: patient, Husband [**Doctor Last Name 861**] [**Telephone/Fax (1) 9072**]
   Code status: Full code
   Disposition: Called out to surgery